US04088767
To a solution of 2.6 g of 1-methyl-4-(3',5'-dichlorophenyl) urazole, which had been prepared by reacting 4-(3',5'-dichlorophenyl) urazole and methyl bromide in an equimolar proportion, and 1.0 g of triethylamine in 10 ml of N,N-dimethylformamide was added 0.8 g of acetyl chloride in small increments at room temperature with agitation. After completing the addition, the reaction was carried out on a water bath for 2 hours with continued agitation. The solvent was removed by distillation into vacuo and the mass was poured in water to precipitate crystals which were recrystallized from ethanol to obtain 2.3 g of 1-methyl-2-acetyl-4-(3',5'-dichlorophenyl) urazole in a yield of 76%.

reactant | 1-methyl-4-(3',5'-dichlorophenyl) urazole | 2.6 g | CN1NC(=O)N(C1=O)C1=CC(=CC(=C1)Cl)Cl | C9H7Cl2N3O2
reactant | 4-(3',5'-dichlorophenyl) urazole | ClC=1C=C(C=C(C1)Cl)N1C(NNC1=O)=O | C8H5Cl2N3O2
reactant | methyl bromide | CBr | CH3Br
reactant | acetyl chloride | 0.8 g | C(C)(=O)Cl | C2H3ClO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 1.0 g | C(C)N(CC)CC | C6H15N
product | 1-methyl-2-acetyl-4-(3',5'-dichlorophenyl) urazole | 2.3 g, yield of 76% | CN1N(C(=O)N(C1=O)C1=CC(=CC(=C1)Cl)Cl)C(C)=O | C11H9Cl2N3O3
